US05972951
1'-Ethyl-5-(4'-hydrazinocarbonyl-2'-methylbiphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine]
A stirred solution of 1'-ethyl-5-[2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] (E26, 2.5 g, 4.7 mmole) in methanol (600 ml) was treated with 1M hydrogen chloride in ether (30 ml, 30 mmole) and kept at room temp. for 20 hours, then concentrated in vacuo. The residue was treated with 10% Na2CO3 solution (200 ml) and chloroform (500 ml), stirred well for 20 minutes, then the chloroform layer separated, dried and concentrated in vacuo. The residue was crystallised from ethyl acetate to afford the title compound as a beige solid (0.94 g, 39%) m.p. 222-225° C.

reactant | 1'-ethyl-5-[2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | 4.7 mmole, 2.5 g | C(C)N1CCC2(CC1)COC1=CC=3CCN(C3C=C12)C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C=1OC(=NN1)C)C | C33H34N4O3
reactant | hydrogen chloride | 1M | Cl | ClH
reactant | ether | 30 mmole, 30 ml | CCOCC | C4H10O
solvent | methanol | 600 ml | CO | CH4O
product | 1'-Ethyl-5-(4'-hydrazinocarbonyl-2'-methylbiphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | 0.94 g, 39% | C(C)N1CCC2(CC1)COC1=CC=3CCN(C3C=C12)C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)NN)C | C31H34N4O3
